### PR TITLE
feat(Analysis/Normed/Affine): mapping ball/sphere by homothety

### PR DESCRIPTION
**Pull request by wwylele**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Affine/AddTorsor.lean [hunk 1]
```diff
@@ -139,6 +139,43 @@ theorem nndist_self_homothety (p₁ p₂ : P) (c : 𝕜) :
...
+  ext q
+  simp only [Set.mem_image, mem_ball]
+  constructor
+  · rintro ⟨s, hs, rfl⟩
+    simpa [hx] using hs
+  · intro h
+    use homothety c x⁻¹ q
+    have hp : p = homothety c x⁻¹ (homothety c x p) := by simp [← homothety_mul_apply, hx]
+    rw [hp, dist_homothety, norm_inv, inv_mul_lt_iff₀ (by simpa using hx)]
+    simp [← homothety_mul_apply, hx, h]
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Affine/AddTorsor.lean]: you can golf everything here by adding (and adding an import `Mathlib.Analysis.Normed.Module.Ball.Pointwise`)
```lean
open scoped Pointwise in
theorem image_homothety (c : P) (x : 𝕜) (s : Set P) :
    homothety c x '' s =
      IsometryEquiv.vaddConst c '' (x • ((IsometryEquiv.vaddConst c).symm '' s)) := by
  simp [← Set.image_smul, ← Set.image_comp]; rfl
```

for example,
```suggestion
  rw [image_homothety, IsometryEquiv.image_ball, _root_.smul_ball hx, IsometryEquiv.image_ball]
  rfl
```

**Comment by wwylele** [comment]
Thanks for the suggestion! ~~I moved `image_homothety` into the `NormedAddTorsor` namespace, as I imagine there could be a version for non-normed space with `AffineEquiv.vaddConst` instead of `IsometryEquiv.vaddConst` in the statement.~~ it is private now

File: Mathlib/Analysis/Normed/Affine/AddTorsor.lean [hunk 2]
```diff
@@ -139,6 +140,35 @@ theorem nndist_self_homothety (p₁ p₂ : P) (c : 𝕜) :
     nndist p₂ (homothety p₁ c p₂) = ‖1 - c‖₊ * nndist p₁ p₂ :=
   NNReal.eq <| dist_self_homothety _ _ _
 
+open scoped Pointwise in
+theorem NormedAddTorsor.image_homothety (c : P) (x : 𝕜) (s : Set P) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Affine/AddTorsor.lean]: probably private though? 🤔 maybe

File: Mathlib/Analysis/Normed/Affine/AddTorsor.lean [hunk 3]
```diff
@@ -139,6 +140,34 @@ theorem nndist_self_homothety (p₁ p₂ : P) (c : 𝕜) :
...
+    IsometryEquiv.image_closedBall]
+  rfl
+
+theorem Metric.image_homothety_closedBall_of_nonneg (p c : Q) {r : ℝ} (hr : 0 ≤ r) (x : 𝕜) :
+    homothety c x '' closedBall p r = closedBall (homothety c x p) (‖x‖ * r) := by
+  rw [image_homothety, IsometryEquiv.image_closedBall, _root_.smul_closedBall x _ hr,
+    IsometryEquiv.image_closedBall]
+  rfl
+
+theorem Metric.image_homothety_sphere (p c : P) (r : ℝ) {x : 𝕜} (hx : x ≠ 0) :
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Affine/AddTorsor.lean:166]: is there a nonneg version too like the `closedBall` version?

Comment (wwylele) [reply Mathlib/Analysis/Normed/Affine/AddTorsor.lean:166]: Here is a counterexample for x = 0 and 0 < r:

Take `V = P = ℚ`, `p = c = 0`, `r = Real.sqrt 2`
`homothety 0 0 '' sphere 0 (Real.sqrt 2) = homothety 0 0 '' ∅ = ∅ ≠ sphere (homothety 0 0 0) (‖0‖ * (Real.sqrt 2)) = {0}`

Comment (themathqueen) [reply Mathlib/Analysis/Normed/Affine/AddTorsor.lean:166]: I think `W` would need to have `[NormedSpace ℝ W] [Nontrivial W]`
```lean
theorem Metric.image_homothety_sphere_of_nonneg [NormedSpace ℝ W] [Nontrivial W]
    (p c : Q) {r : ℝ} (hr : 0 ≤ r) (x : 𝕜) :
    homothety c x '' sphere p r = sphere (homothety c x p) (‖x‖ * r) := by
  rw [image_homothety, IsometryEquiv.image_sphere, _root_.smul_sphere x _ hr,
    IsometryEquiv.image_sphere]
  rfl
```

Comment (wwylele) [reply Mathlib/Analysis/Normed/Affine/AddTorsor.lean:166]: Thanks! I should have checked the existing `smul_sphere` for its hypothesis

Comment (wwylele) [reply Mathlib/Analysis/Normed/Affine/AddTorsor.lean:166]: One weird thing about this `image_homothety_sphere_of_nonneg` is that it asks for two NormedSpace instances `[NormedSpace 𝕜 W] [NormedSpace ℝ W]`. I think it is fine, but want to point it out in case anyone finds this problematic.

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/Analysis/Normed/Affine/AddTorsor.lean [hunk 4]
```diff
@@ -139,6 +140,41 @@ theorem nndist_self_homothety (p₁ p₂ : P) (c : 𝕜) :
...
+open scoped Pointwise in
+private theorem image_homothety (c : P) (x : 𝕜) (s : Set P) :
+    homothety c x '' s =
+      IsometryEquiv.vaddConst c '' (x • ((IsometryEquiv.vaddConst c).symm '' s)) := by
+  simp [← Set.image_smul, ← Set.image_comp]; rfl
+
+theorem Metric.image_homothety_ball (p c : P) (r : ℝ) {x : 𝕜} (hx : x ≠ 0) :
+    homothety c x '' ball p r = ball (homothety c x p) (‖x‖ * r) := by
+  rw [image_homothety, IsometryEquiv.image_ball, _root_.smul_ball hx, IsometryEquiv.image_ball]
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Affine/AddTorsor.lean]: Let's do this everywhere in this PR instead of relying on defeq
```suggestion
  simp [homothety_apply]
```

File: Mathlib/Analysis/Normed/Affine/AddTorsor.lean [hunk 5]
```diff
@@ -139,6 +140,41 @@ theorem nndist_self_homothety (p₁ p₂ : P) (c : 𝕜) :
...
 
+open scoped Pointwise in
+private theorem image_homothety (c : P) (x : 𝕜) (s : Set P) :
+    homothety c x '' s =
+      IsometryEquiv.vaddConst c '' (x • ((IsometryEquiv.vaddConst c).symm '' s)) := by
+  simp [← Set.image_smul, ← Set.image_comp]; rfl
+
+theorem Metric.image_homothety_ball (p c : P) (r : ℝ) {x : 𝕜} (hx : x ≠ 0) :
+    homothety c x '' ball p r = ball (homothety c x p) (‖x‖ * r) := by
+  rw [image_homothety, IsometryEquiv.image_ball, _root_.smul_ball hx, IsometryEquiv.image_ball]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Affine/AddTorsor.lean]: This `_root_.smul_ball` (and the related ones below) mean that the `Metric.` versions need to be `protected`. Can you please do that?
